US04732895
1-[5-Methyl-2-(2-pyridinyl)-1H-imidazol-4-yl]ethanone
A mixture of 6.5 g of 2,3,4-pentanetrione, 3-oxime and 6.0 g of 2-pyridylmethylamine in 125 ml of acetonitrile was reacted as described in Example 1, giving 3.6 g of the desired compound, mp 145°-147° C.

reactant | 2,3,4-pentanetrione | 6.5 g | CC(C(C(C)=O)=O)=O | C5H6O3
reactant | 2-pyridylmethylamine | 6.0 g | N1=C(C=CC=C1)CN | C6H8N2
reactant | acetonitrile | 125 ml | C(C)#N | C2H3N
product | 1-[5-Methyl-2-(2-pyridinyl)-1H-imidazol-4-yl]ethanone | 3.6 g | CC1=C(N=C(N1)C1=NC=CC=C1)C(C)=O | C11H11N3O
